data/oMe_Silver.jsonl
{"reaction_id": "NR-223_1-c1ccc(OC)cc1_2-C(c1ccccc1)c2ccccc2_3-C(C)C_4-c1ccc(OC)cc1","level": "medium","name": "Pinacol Rearrangement","reactants_smiles": ["C(c1ccc(OC)cc1)(C(c1ccccc1)c2ccccc2)(O)C(O)(C(C)C)(c1ccc(OC)cc1)"],"products_smiles": ["C(=O)(c1ccc(OC)cc1)C(C(c1ccccc1)c2ccccc2)(C(C)C)(c1ccc(OC)cc1)"],"conditions": "H2O","mechanism_step_nums": 3,"mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(c1ccc(OC)cc1)(C(c1ccccc1)c2ccccc2)(O)C([OH2+])(C(C)C)(c1ccc(OC)cc1)","step_weight": 0,"rationale": "Protonation of the hydroxyl group increases its leaving group ability by converting OH into water, aided by the acidic medium."},{"step": 2,"type": "cleavage","subtype": "heterolytic_cleavage","intermediate_smiles": "C(c1ccc(OC)cc1)(C(c1ccccc1)c2ccccc2)(O)[C+](C(C)C)(c1ccc(OC)cc1)","step_weight": 0,"rationale": "Water departs as a neutral, stable molecule, generating a carbocation stabilized by adjacent oxygen through inductive and resonance effects."},{"step": 3,"type": "rearrangement","subtype": "1,2-shift","intermediate_smiles": "C(=O)(c1ccc(OC)cc1)C(C(c1ccccc1)c2ccccc2)(C(C)C)(c1ccc(OC)cc1)","step_weight": 0,"rationale": "A 1,2-alkyl shift occurs to form a more stable carbocation adjacent to oxygen, enabling resonance stabilization and subsequent ketone formation."}],"description": "Under acidic aqueous conditions, the diol undergoes protonation to activate one hydroxyl group, followed by loss of water to generate a carbocation. A 1,2-alkyl shift then stabilizes the cation via resonance with the adjacent oxygen, yielding the rearranged ketone."}
{"reaction_id": "NR-227_1-C_2-C(C)C","level": "hard","name": "Pomeranz-Fritsch Isoquinoline Synthesis","reactants_smiles": ["O=C(C)c1ccccc1","NC(C(OC(C)C)(OC(C)C))c1ccccc1"],"products_smiles": ["C1=CC=CC2=C1C=C(c3ccccc3)N=C(C)2"],"conditions": "acidic conditions","mechanism_step_nums": 5,"mechanism": [{"step": 1,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C(c1ccccc1)(C)=NC(c1ccccc1)C(OC(C)C)(OC(C)C)","step_weight": 0,"rationale": "The amine nitrogen attacks the electrophilic carbonyl carbon, facilitated by acid activation of the carbonyl, forming a stabilized carbinolamine intermediate."},{"step": 2,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "C(c1ccccc1)(C)=NC(c1ccccc1)C(=[O+]CC)","step_weight": 0,"rationale": "Protonation of the hydroxyl group enhances its leaving ability, allowing water elimination to form an iminium ion stabilized by conjugation with the aromatic ring."},{"step": 3,"type": "elimination","subtype": "proton_elimination","intermediate_smiles": "C(c1ccccc1)(C)=NC(c1ccccc1)=C([O]CC)","step_weight": 0,"rationale": "Loss of a proton adjacent to the iminium generates an enamine, driven by increased conjugation and relief of positive charge."},{"step": 4,"type": "cyclization","subtype": "aromatic_electrophilic_substitution","intermediate_smiles": "C(=C1C2C=CC=C1)(C)N=C(c1ccccc1)C2([O]CC)","step_weight": 0,"rationale": "The electron-rich aromatic ring attacks the electrophilic iminium carbon intramolecularly, favored by proximity and acid-promoted electrophilicity, forming the bicyclic framework."},{"step": 5,"type": "aromatization","subtype": "dehydration","intermediate_smiles": "C1=CC=CC3=C1C=C(C2=CC=CC=C2)N=C3(C)","step_weight": 0,"rationale": "Dehydration restores full aromaticity in the heterocyclic ring, a thermodynamically favorable step under acidic, dehydrating conditions."}],"description": "Under acidic conditions, the amine condenses with the carbonyl to form an iminium intermediate, which undergoes dehydration and rearrangement. Subsequent intramolecular electrophilic aromatic substitution closes the isoquinoline ring, followed by dehydration-driven aromatization to yield the heteroaromatic product."}
